US08440658B2
A mixture of (S)-3-(tert-butyldimethylsilyloxy)-3-methylbutan-2-amine (6 g, 27.6 mmol), 1-chloro-3-phenylhex-5-en-3-ol (4.83 g, 23 mmol) and K2CO3 (15 g, 100 mmol) in CH3CN (100 mL) was stirred and heated to reflux overnight. The solid was filtered, and the filtrate was concentrated to give the crude product which was purified by column chromatography to afford 1-((S)-3-(tert-butyldimethylsilyloxy)-3-methylbutan-2-ylamino)-3-phenylhex-5-en-3-ol (300 mg, 3%). 1H NMR (CDCl3): 0.00 (s, 6H), 0.73 (s, 9H), 1.02 (s, 3H), 1.12 (d, 3H), 1.21 (s, 3H), 1.92 (m, 2H), 2.30 (m, 4H), 2.49 (m, 3H), 2.96 (m, 2H), 4.92 (m, 3H), 5.45 (m, 2H), 7.11 (m, 1H), 7.21 (m, 2H), 7.26 (m, 2H).

reactant | (S)-3-(tert-butyldimethylsilyloxy)-3-methylbutan-2-amine | 27.6 mmol, 6 g | [Si](C)(C)(C(C)(C)C)OC([C@H](C)N)(C)C | C11H27NOSi
reactant | 1-chloro-3-phenylhex-5-en-3-ol | 23 mmol, 4.83 g | ClCCC(CC=C)(O)C1=CC=CC=C1 | C12H15ClO
reactant | K2CO3 | 100 mmol, 15 g | C(=O)([O-])[O-].[K+].[K+]
solvent | CH3CN | 100 mL | CC#N | C2H3N
product | 1-((S)-3-(tert-butyldimethylsilyloxy)-3-methylbutan-2-ylamino)-3-phenylhex-5-en-3-ol | 300 mg, 3% | [Si](C)(C)(C(C)(C)C)OC([C@H](C)NCCC(CC=C)(O)C1=CC=CC=C1)(C)C | C23H41NO2Si
